data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1389,1528,[CH3:15][CH:16]=[NH+:17][C-:18]([CH3:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:18]([CH3:19])([C:20](=[O:21])[O:22][CH3:23])[NH:17][CH:16]2[CH3:15],water,298.15,18.558355826948908,-32.14963206740613
876,949,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[O-:23].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:20]([C:18]([NH:17][CH3:16])=[O:19])[N:21]([CH3:22])[O:23]2,water,298.15,19.45106780044763,-22.926173465605483
5004,5692,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18](=[O:19])[NH:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[O:15][C:16]1([CH3:17])[C:18](=[O:19])[NH:20][CH3:21],water,298.15,10.59793688569762,-41.38957041283476
4601,5247,[CH3:10][O:11][C:12](=[O:13])[CH:14]=[N+:15]([CH3:16])[C-:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:17]([CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:15]([CH3:16])[CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,28.163449156923523,-14.462747021883088
1568,1734,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]([C:20]#[N:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:18]=[C:17]2[C:15]([O:14][CH3:13])=[O:16],water,298.15,11.647213294447296,-45.76606118412362
413,451,[CH3:1][C:2]([CH3:3])=[C:4]([F:5])[F:6].[CH3:7][NH:8][C:9](=[O:10])[c-:11]1[nH+:12][c:13]([C:14](=[O:15])[O:16][CH3:17])[o:18][c:19]1=[O:20]>>[CH3:1][C:2]1([CH3:3])[C:4]([F:5])([F:6])[C:13]2([C:14](=[O:15])[O:16][CH3:17])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:19](=[O:20])[O:18]2,water,298.15,27.30753662764121,-2.5913761869001544
1906,2112,[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][O:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24]([CH3:25])=[O:26]>>[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]([C:11]([O:10][CH3:9])=[O:12])([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N:20]([CH3:21])[C:22]3([CH3:23])[C:24]([CH3:25])=[O:26],water,298.15,23.667168150523363,-39.79997880307021
321,350,[CH3:13][CH-:14][NH+:15]=[C:16]([CH3:17])[C:18]#[N:19].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:16]([CH3:17])([C:18]#[N:19])[NH:15][CH:14]2[CH3:13],water,298.15,18.39358384298604,-16.302562430259936
3614,4126,[CH3:6][NH:7][C:8](=[O:9])[C-:10]([O+:11]=[C:12]([CH3:13])[CH3:14])[C:15](=[O:16])[O:17][CH3:18].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:12]([CH3:13])([CH3:14])[O:11][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:15](=[O:16])[O:17][CH3:18],water,298.15,49.40187522467015,11.232555106615427
3394,3854,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([NH+:10]=[CH:11][C:12]([CH3:13])=[O:14])[C:15]([CH3:16])=[O:17]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:15]([CH3:16])=[O:17])[NH:10][CH:11]1[C:12]([CH3:13])=[O:14],water,298.15,22.30175205815213,-15.39495250931747
2115,2348,[CH3:16][O:17][C:18](=[O:19])[c-:20]1[o+:21][c:22](-[c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[o:29][c:30]1=[O:31].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:20]1([C:18]([O:17][CH3:16])=[O:19])[O:21][C:22]2([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[O:29][C:30]1=[O:31],water,298.15,24.70684532105576,-9.259549044856966
3516,4008,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[c-:9]1[c:10](=[O:11])[o:12][c:13]([C:14]([CH3:15])=[O:16])[n+:17]1[CH3:18]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]2([C:7]([O:6][CH3:5])=[O:8])[C:10](=[O:11])[O:12][C:13]1([C:14]([CH3:15])=[O:16])[N:17]2[CH3:18],water,298.15,28.807204040028445,-4.450378488091924
